* C:\Users\Usuario\Desktop\SintesisDeRedesActivasGit\Laboratorio N°1\Laboratorio1-CircuitoII.asc
R1 N001 N002 100
R2 N001 N003 10k
R4 N003 0 100k
R3 N002 Vin 1k
RL 0 N002 1k
V1 Vin 0 -1
V2 VCC 0 10
V3 0 VEE 10
XU1 N002 N003 VCC VEE N001 LMX24_LM2902
.op
.include C:\Users\Usuario\Desktop\SintesisDeRedesActivasGit\Laboratorio N°1\sglm009c\lmx24_lm2902.lib
.backanno
.end
